US08084621B2
Synthesis of 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (S4)
ethyl 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate (S3) 1.0 g (4.5 mmol) in 25 ml aq. LiOH solution (1 mol/L) was stirred for 48 hours at 70° C. The mixture was poured into the ice water, then acidified with 6 mol/L HCl to pH 1 to 2. The gray solid was collected by filtration, washed with water and dried in vacuum condition to give 0.64 g (74%) of the titled compound.

reactant | ethyl 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate | 4.5 mmol, 1.0 g | CC=1NC=2C(CCCC2C1C(=O)OCC)=O | C12H15NO3
reactant | HCl | 6 mol/L | Cl | ClH
solvent | LiOH | 1 mol/L, 25 ml | [Li+].[OH-]
product | 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 0.64 g, 74% | CC=1NC=2C(CCCC2C1C(=O)O)=O | C10H11NO3
